US07732618B2
a.) {5-[(4-Fluoro-benzenesulfonyl)-(3-phenoxy-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester. (Scheme 1)
3-Phenoxypropyl bromide (0.27 mmol) and K2CO3 (63 mg, 0.45 mmol) were added to a solution of [5-(4-fluoro-benzenesulfonylamino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester (40 mg, 0.09 mmol) in CH3CN (1 mL), and stirred overnight at 80° C. The reaction mixture was diluted with EtOAc and H2O, and then filtered through an Extrelut column.

reactant | 3-Phenoxypropyl bromide | 0.27 mmol | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | K2CO3 | 0.45 mmol, 63 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | [5-(4-fluoro-benzenesulfonylamino)-2-propyl-benzoimidazol-1-yl]-acetic acid tert-butyl ester | 0.09 mmol, 40 mg | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)NS(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C22H26FN3O4S
solvent | CH3CN | 1 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | {5-[(4-Fluoro-benzenesulfonyl)-(3-phenoxy-propyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(CCCOC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)F)CCC)=O | C31H36FN3O5S
